Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / tape
 
Attending: ___
 
Chief Complaint:
Chest and epigastric pain
 
Major Surgical or Invasive Procedure:
___ - ERCP

 
History of Present Illness:
Patient is an ___ year old male with a history of CAD s/p 7 
stents, CHF, DM, HL, history of GI bleed (colonic 
source/surgical site attachment), Afib s/p pacemaker, s/p CCY 
for grangrenous gall bladder, presenting with chest and 
epigastric pain. Patient states that ___ night, he developed 
central chest and abdominal pain that resolved with ___ tabs of 
SL nitro. He also states that he had hot flashes, chills, and 
was shivering, no dicumented fevers. He then woke up the next 
day and went to work from 1pm to 8pm. At the end of the shift, 
he felt shivering again and the pain started gradually, building 
up again in the epigastric region. He went home and was told by 
his wife to go to hospital. He also noted that his urine was 
gray. 
 
He presented to ___ where a CT abd-pelvis without 
IV contrast with PO contrast showed mild fat stranding around 
head of pancreas, enlarged CBD 1.7 cm, several hyperdense stones 
seen at distal CBD. Labs there showed Tbil 3.6, Indirect bil 
0.9, Tpn I 0.876, Cr 2.34, BUN 55, K 4.4, ALT 285, AST 158, ALP 
243, Ca 8.3, Alb 3. Lipase 635, serum EtOH level < 3, TSH 0.235 
(low), WBC 9.7, Hct 39, plt 191. EKG per report showed paced 
rhythm. He was ___ transferred to ___. 
 
In the ED, initial vitals were 98.2 73 156/61 16 96% RA. Labs 
notable for a Cr 1.9, Trop .11 CK 649 and MB 11, ALT 249 AST 132 
AP 201 Tbili 5.4, WBC 9.0, Lactate normal at 1.7. ECG showed 
sinus, rate 79, intermittent paced rhythm, < 1 mm STE in 
inferior leads when sinus but with wide QRS. He was given 1L NS. 
ERCP was consulted, plan will be to do ERCP in the AM. 
Cardiology was consulted, recommended admission to ___, 
continue to trend biomarkers, no need to start heparin unless 
biomarkers trend up or patient develops chest pain. He was given 
aspirin 325, atorvastatin 80 and metoprolol tartrate 12.5 mg.  

On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  

Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: + Dyslipidemia, Hypertension, Diabetes  

2. CARDIAC HISTORY:  
- CAD s/p stents  
- CHF  
- AFib s/p pacemaker  
3. OTHER PAST MEDICAL HISTORY:  
- s/p s/p CCY for grangrenous gall bladder
-s/p partial colectomy ___ c. diff colitis    
 
Social History:
___
Family History:
NC  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals: 98.2 162/90 73 18 96% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera icteric, Dry MM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Tender in RUQ and epigastrum, non-distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

DISCHARGE PHYSICAL EXAM: 
97.6, Tmax 98.0, BP 123-166/57-99, P 58-66, RR ___, O2 sat 
___ RA
General: Alert and oriented x3, in no acute distress
HEENT: NCAT. No LAD. JVP not appreciated.
CV: RRR, no m/r/g
Lungs: Clear to auscultation bilaterally
Abdomen: Soft, non-distended, normoactive bowel sounds x4. 
Tender to palpation in all quadrants except the RUQ.
Extremities: WWP, no ankle edema
 
Pertinent Results:
ADMISSION LABS:
___ 11:15PM BLOOD WBC-9.0 RBC-3.95* Hgb-13.5* Hct-40.4 
MCV-102* MCH-34.2* MCHC-33.5 RDW-15.7* Plt ___
___ 11:15PM BLOOD ___ PTT-30.0 ___
___ 11:15PM BLOOD Plt ___
___ 11:15PM BLOOD Creat-1.9* Na-145 K-4.6 Cl-111*
___ 11:15PM BLOOD ALT-249* AST-132* CK(CPK)-649* 
AlkPhos-201* TotBili-5.4*
___ 11:15PM BLOOD CK-MB-11* MB Indx-1.7
___ 11:15PM BLOOD Albumin-3.5 Phos-2.0* Mg-1.9

NOTABLE LABS
___ 11:15PM BLOOD cTropnT-0.11*
___ 07:11AM BLOOD CK-MB-8 cTropnT-0.10*

DISCHARGE LABS
___ 07:40AM BLOOD WBC-5.3 RBC-3.71* Hgb-12.6* Hct-38.2* 
MCV-103* MCH-34.1* MCHC-33.1 RDW-15.9* Plt ___
___ 11:15PM BLOOD Neuts-77.9* Lymphs-13.7* Monos-7.1 
Eos-0.8 Baso-0.6
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-116* UreaN-27* Creat-1.0 Na-140 
K-4.1 Cl-106 HCO3-22 AnGap-16
___ 07:40AM BLOOD ALT-130* AST-69* LD(LDH)-226 AlkPhos-179* 
TotBili-3.3*
___ 07:11AM BLOOD CK-MB-8 cTropnT-0.10*
___ 07:40AM BLOOD Albumin-2.9* Calcium-8.3* Phos-1.6* 
Mg-1.6
___ 06:33AM BLOOD calTIBC-274 VitB12-431 Ferritn-272 
TRF-211
___ 11:22PM BLOOD Lactate-1.7

STUDIES:
MICRO: None
ECG: ___: A-V sequentially paced rhythm with capture and 
occasional atrial ectopy with ventricular response as well as 
atrial sensed and ventricular paced rhythm. No previous tracing 
available for comparison. 

ECG: ___: Sinus rhythm with atrial sensed and ventricular 
paced rhythm. Occasional 
atrial ectopy as well as A-V sequential paced rhythm. Compared 
to the previous 
tracing of ___ no diagnostic interim change. 
 
TTE: ___ Conclusions  
The left atrium is moderately dilated. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. Overall left ventricular systolic 
function is mildly depressed (LVEF= 45 %). Right ventricular 
chamber size and free wall motion are normal. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Mild (1+) 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild (1+) mitral regurgitation is seen. [Due 
to acoustic shadowing, the severity of mitral regurgitation may 
be significantly UNDERestimated.] The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
There is an anterior space which most likely represents a 
prominent fat pad. 
IMPRESSION: Suboptimal image quality. Biatrial enlargement. Mild 
symmetric left ventricular hypertrophy with mildly reduced left 
ventricular systolic function. Regional wall motion 
abnormalities cannot be excluded in the setting of suboptimal 
image quality. Mildly dilated ascending aorta. Mild aortic 
reurgitation. Mild mitral regurgitation. Normal pulmonary artery 
systolic pressure.

ERCP: ___   
Impression: A single periampullary diverticulum was found at the 
major papilla.  
Cannulation of the biliary duct was successful and deep with a 
sphincterotome 
A moderate diffuse dilation was seen at the biliary tree with 
the CBD measuring 15 mm.  There were several round filling 
defects compatible with multipl stones in the bile duct at the 
biliary tree.  
Given these findings, a sphincterotomy was performed 
Then, a sphincteroplasty was performed using a CRE balloon from 
12 mm to 15 mm 
Several balloon sweeps were performed. 
Five large round yellowish stones and large amount of sludge 
were extracted successfully using a balloon. 
Filling defects showed no filling defects. 
Excellent flow of bile was noted. 
 
Recommendations: Return to floor under ongoing care. 
NPO overnight with aggressive IV hydration with LR at 200 cc/hr. 

If no abdominal pain in the AM, advance diet to clear liquids 
and then advance as tolerated. 
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call (___) 
No plavix, coumadin for 5 days if appropiate 

 
Brief Hospital Course:
Patient is an ___ year old male with a history of CAD s/p 7 
stents, CHF, DM, HL, history of GI bleed (colonic 
source/surgical site attachment), Afib, SSS s/p pacemaker, s/p 
CCY for grangrenous gall bladder, who presented with gallstone 
pancreatitis and was ruled out for acute coronary syndrome 
before undergoing ERCP with sphincterotomy and sphincteroplasty.

#Choledocholithiasis and pancreatitis- CT abd-pelvis at OSH 
showed mild fat stranding around the head of the pancreas, 
enlarged common bile duct (1.7cm) and several hyperdense stones. 
His ALT and AST were elevated. His ALP, lipase, amylase, total 
bilirubin and direct bilirubin were also elevated. On day 1 of 
his hospital stay at ___, acute cornary syndrome was ruled out 
as below. On day 2, ERCP was performed. A sphincterotomy 
followed by a sphincteroplasty was performed and five large 
round yellowish stones and large amount of sludge were 
extracted. Patient returned to floor for continued care. He was 
kept NPO overnight with IV hydration and his diet was advanced 
as tolerated and the following day he tolerated PO and was 
discharged home.  ERCP team felt that this resolved and patient 
would only need to f.u with PCP rather than ERCP team. His abd 
pain improved as well and he was d/c'd with no abdominal pain, 
eating and drinking well.

#r/o acute coronary syndrome- At ___ Troponin I 
was elevated at 0.876. EKG per report showed paced ryhthm. At 
the ___ ED, troponin T was 0.11, CK 649 and MB 11. ECG showed 
sinus, rate 79, intermittent paced rhythm, no clear ischemic 
changes. Of note Cr was elev 1.9 when he was admitted to ___ 
so it is possible that elevated Cr may have contributed to the 
elev trop. He was given 1L NS. On the floor he was also given 
aspirin 325, atorvastatin 80 and metoprolol tartrate 12.5 mg. 
Patient denied any epigastric pain throughout his entire 
hospital course. His cardiac biomarkers were rechecked and were 
downtrending. Patient had an echo with an unchanged EF and no 
new wall motion abnormalities. Given normal echo and 
downtrending biomarkers, patient was cleared for ERCP.  Initial 
elevation of cardiac enzymes was thought to be secondary to 
prerenal failure (Cr 1.9 at its highest) in the setting of 
vomiting and decreased PO intake. Demand ischemia in the setting 
of pancreatitis and choledocholithiasis is also possible as 
well. He had no chest pain on day of d/c and was advised to f/u 
with his cardiologist for a stress test pMIBI as an outpatient.

#Macrocytic anemia: Patient was found to have a macrocytic 
anemia on this admission. B12 levels were found to be within 
normal limits. No further workup was performed.

___: prerenal failure (Cr 1.9 at its highest) in the setting of 
vomiting and decreased PO intake, Cr improved over hospital 
course on d.c was 1.0.

CHRONIC CONDITIONS:
Patient received his home doses of medications for CAD, gout, 
GERD, and BPH. Blood glucose was well controlled on a sliding 
scale. His lisinopril was held throughout his stay in the 
setting of elevated creatinine.

CODE STATUS: FULL

TRANSITIONAL:
[]Follow up with PCP regarding anemia if symptomatic
[]f/u with cardiologist to get pMIBI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Tartrate 25 mg PO BID 
3. Lisinopril 40 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Duloxetine 60 mg PO DAILY 
6. Finasteride 5 mg PO DAILY 
7. NovoLIN ___ *NF* (insulin NPH & regular human) 100 unit/mL 
(70-30) Subcutaneous 22 units QAM 8 units QPM 
8. Donepezil 10 mg PO HS 
9. Gabapentin 300 mg PO TID 
10. Allopurinol ___ mg PO DAILY 
11. Tamsulosin 0.4 mg PO HS 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Donepezil 10 mg PO HS 
4. Duloxetine 60 mg PO DAILY 
5. Finasteride 5 mg PO DAILY 
6. Gabapentin 300 mg PO TID 
7. Metoprolol Tartrate 25 mg PO BID 
8. Omeprazole 40 mg PO DAILY 
9. Tamsulosin 0.4 mg PO HS 
10. Lisinopril 40 mg PO DAILY 
11. NovoLIN ___ *NF* (insulin NPH & regular human) 100 unit/mL 
(70-30) Subcutaneous 22 units QAM 8 units QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Choledocholithiasis
Pancreatitis
Type II non-ST elevation myocardial infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your admission to 
___ for chest and abdominal pain.  You were found to have many 
stones blocking your common bile duct.  You had a procedure 
called an ERCP which showed stones and sludge in your common 
bile duct, which were removed.  You tolerated the procedure well 
and you felt well had no more pain and were able to tolerate 
food on discharge. 

Your chest pain improved and your cardiac enzymes, while 
initially abnormal, improved during this admission.  You had an 
echocardiogram which was unchanged from your prior one.

Please follow up with your primary care doctor.

We also recommend that you make an appointment to see your 
cardiologist by next week because you should have a stress test 
to make sure your coronary arteries look ok and there are no new 
blockages. 
 
Followup Instructions:
___